US03966931
A solution of 5-hydroxy-6-(6-methoxypyridazin-3-yl)-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole (8.9 g.) in anhydrous tetrahydrofuran (90 cc.) is treated for 30 minutes at about 15°-20°C, with sodium hydride (0.87 g.), and a solution of 1-chlorocarbonyl-4-methylpiperazine (19.5 g.) in anhydrous tetrahydrofuran (120 cc.) is then added, at 5°C. The reaction mixture is stirred for 4 hours at 5°C. After evaporating the solvent under reduced pressure (20 mm.Hg), the residue is taken up in an ice-cold normal aqueous solution of methanesulphonic acid (150 cc.). The acid solution obtained is rapidly washed twice with diethyl ether (total 100 cc.) and then rendered alkaline by adding 10N sodium hydroxide solution (25 cc.). The oil which separates out is extracted three times with methylene chloride (total 300 cc.). The combined organic extracts are washed twice with distilled water (total 100 cc.), dried over anhydrous magnesium sulphate and evaporated. The crystals obtained (8.7 g.; m.p. 196°-198°C.) are dissolved in boiling ethanol (300 cc.). After filtering the boiling solution and then cooling it for three hours at 2°C, the crystals which have appeared are filtered off, washed three times with ice-cold ethanol (total 45 cc.) and dried under reduced pressure (20mm.Hg). 6-(6-Methoxypyridazin-3-yl)-5-(4-methylpiperazin-1-yl)carbonyloxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole (7.7 g.), melting at 200°C, is thus obtained.

reactant | 5-hydroxy-6-(6-methoxypyridazin-3-yl)-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole | 8.9 g | OC1C2=C(C(N1C=1N=NC(=CC1)OC)=O)SCCS2 | C11H11N3O3S2
reactant | sodium hydride | 0.87 g | [H-].[Na+]
reactant | 1-chlorocarbonyl-4-methylpiperazine | 19.5 g | ClC(=O)N1CCN(CC1)C | C6H11ClN2O
reactant | ethanol | 300 cc | C(C)O | C2H6O
solvent | tetrahydrofuran | 90 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 cc | O1CCCC1 | C4H8O
product | 6-(6-Methoxypyridazin-3-yl)-5-(4-methylpiperazin-1-yl)carbonyloxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole | 7.7 g | COC1=CC=C(N=N1)N1C(C2=C(C1OC(=O)N1CCN(CC1)C)SCCS2)=O | C17H21N5O4S2
